US04151357
(E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol bis-2-thienylacetate
To a solution of 1.0 g of (E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol in 5 ml of anhydrous pyridine was added dropwise 2 ml of 2-thienylacetyl chloride under ice-cooling. After 1 hour, ice-water was added and extraction was done with ethyl ether. The ether layer was washed successively with dilute hydrochloric acid, aqueous sodium hydrogencarbonate and water and dried over anhydrous sodium sulfate. The solvent was distilled off to give an oily substance, which was then purified by a column chromatography with silica gel (15 g) to afford 1.1 g of the end product.

reactant | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | OC/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C20H34O2
reactant | 2-thienylacetyl chloride | 2 ml | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol bis-2-thienylacetate | 1.1 g | S1C(=CC=C1)C(C(=O)OC\C=C(\CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\CO)/C)C=1SC=CC1 | C30H40O3S2
